US07470713B2
2-(4-Iodo-2-methoxy-pyridin-3-yl)-5-(4-morpholin-4-yl-phenyl)-imidazol-1-ol:
(4-Morpholin-4-yl-phenyl)-oxo-acetaldehyde oxime (0.111 g, 0.474 mmol) was reacted as described for the synthesis of 4-ethyl-2-(4-iodo-2-methoxy-pyridin-3-yl)-5-phenyl-imidazol-1-ol and afforded the title material (0.049 g, 22%).

reactant | (4-Morpholin-4-yl-phenyl)-oxo-acetaldehyde oxime | 0.474 mmol, 0.111 g | N1(CCOCC1)C1=CC=C(C=C1)C(C=NO)=O | C12H14N2O3
reactant | 4-ethyl-2-(4-iodo-2-methoxy-pyridin-3-yl)-5-phenyl-imidazol-1-ol | C(C)C=1N=C(N(C1C1=CC=CC=C1)O)C=1C(=NC=CC1I)OC | C17H16IN3O2
product | 2-(4-Iodo-2-methoxy-pyridin-3-yl)-5-(4-morpholin-4-yl-phenyl)-imidazol-1-ol | 0.049 g, 22% | IC1=C(C(=NC=C1)OC)C=1N(C(=CN1)C1=CC=C(C=C1)N1CCOCC1)O | C19H19IN4O3
